US04841085
Cyclohexylammonium Hydrogen N,N-di-(2-chloroethyl)phosphorodiamidate synthesis. 25 g of bis(2-chloroethyl)amine hydrochloride in 65 ml of oxyphosphorus chloride was heated to reflux for 12 hours. The excess oxyphosphorus was removed by evaporation. Di(2-chloroethyl)phosphoramidic dichloride was crystallized from petroleum ether and acetone (1:1). It was recrystallized 3 times with the same solvent. 14.5 g of white crystal was obtained, m.p. 54°-56° C. This melting point was the same as that previously reported. 3 g of di(2-chloroethyl)phosphoramidic dichloride and 1.15 g of phenol were added to 20 ml of toluene and heated to reflux, 1.85 ml of triethylamine was then added over 2 minutes, the reflux continued for 4 hours and then left overnight. The suspension was filtered and the filtrate was submitted to Si02 column chromatography (hexane: ethylacetate=7:3). Phenyl-di(2-chloroethyl)phosphoramidic chloride was obtained as a yellow oil, 3.361 g, 92% NMR (CDCl)3: 7.3 (s, 5 H,C6H5), 3.87-3.33 (m, 8 H, Ch2CH2Cl). 2.115 g of Phenyl-di(2-chloroethyl) phosphoramidic chloride in toluene was bubbled with ammonia for 30 minutes. The precipitate was filtered and the solvent was removed by evaporation. The residue was diluted to cloudiness with petroleum ether and left overnight. Phenyl N,N-di(2-chloroethyl)phosphorodiamidate was crystallized, filtered, and without further purification, it was added to 50 ml o 100% ethanol and 0.4 g of platinum(IV) oxide and hydrogenolized for 15 minutes under the pressure 11 lb/inch2. The mixture was filtered and 0.5 ml of cyclohexamine was added immediately. After the evaporation, the residue was washed onto a filter with ether. 0.501 g cyclohexylammonium hydrogen N,N-di)2-chloroethyl)phosphorodiamidate as an off white powder was obtained, 23%, m.p. 124°-126° C.

reactant | di(2-chloroethyl)phosphoramidic dichloride | 3 g | ClCCN(P(=O)(Cl)Cl)CCCl | C4H8Cl4NOP
reactant | phenol | 1.15 g | C1(=CC=CC=C1)O | C6H6O
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1.85 ml | C(C)N(CC)CC | C6H15N
product | Phenyl-di(2-chloroethyl)phosphoramidic chloride | C1(=CC=CC=C1)[ClH]P(=O)(N(CCCl)CCCl)Cl | C10H14Cl4NOP
